US04544667
6-[(Carboxy)methoxy]-2-sulfamoylbenzo[b]furan
Solid 6-[(ethoxycarbonyl)methoxy]-2-sulfamoylbenzo[b]furan (5 mmol) is added to 10% NaOH (40 ml) and stirred at room temperature 4-6 hours. The solution is acidified and extracted with ethyl acetate, dried (Na2SO4) and evaporated. The residue is dissolved in hot ethyl acetate, filtered, and evaporated until crystallization begins to give product.

reactant | 6-[(ethoxycarbonyl)methoxy]-2-sulfamoylbenzo[b]furan | 5 mmol | C(C)OC(=O)COC=1C=CC2=C(OC(=C2)S(N)(=O)=O)C1 | C12H13NO6S
solvent | NaOH | 40 ml | [OH-].[Na+]
product | 6-[(Carboxy)methoxy]-2-sulfamoylbenzo[b]furan | C(=O)(O)COC=1C=CC2=C(OC(=C2)S(N)(=O)=O)C1 | C10H9NO6S
